US08030500B2
1-(2-(Difluoromethyl)-6-methylpyridin-4-yl)-4-fluoro-1-(2-(pyrimidin-5-yl)pyridin-4-yl)-1H-isoindol-3-amine
1-(2-Chloropyridin-4-yl)-1-(2-(difluoromethyl)-6-methylpyridin-4-yl)-4-fluoro-1H-isoindol-3-amine (400 mg, 0.99 mmol), pyrimidin-5-ylboronic acid (135 mg, 1.09 mmol) and (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (82 mg, 0.10 mmol) were mixed in THF (3 mL). Aqueous sodium carbonate (2M) (1.490 mL, 2.98 mmol) was added and the mixture was heated in a microwave reactor for 40 min at 140° C. The mixture was filtered through a pad of Celite®, eluated with DCM (15 mL) and concentrated in vacuo. Purification by preparative HPLC afforded 60 mg (14%) of the title compound. 1H NMR (400 MHz, CDCl3) δ ppm 9.26 (s, 2 H) 9.25 (s, 1 H) 8.69 (d, 1 H) 7.68 (s, 1 H) 7.50-7.58 (m, 1 H) 7.39 (d, 1 H) 7.35 (s, 1 H) 7.25 (dd, 1 H) 7.22 (s, 1 H) 7.19 (d, 1 H) 6.75-6.42 (t, 1 H) 2.56 (s, 3 H); MS (ES+) m/z 447 [M+1]+.

reactant | 1-(2-Chloropyridin-4-yl)-1-(2-(difluoromethyl)-6-methylpyridin-4-yl)-4-fluoro-1H-isoindol-3-amine | 0.99 mmol, 400 mg | ClC1=NC=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC(=C1)C)C(F)F | C20H14ClF3N4
reactant | pyrimidin-5-ylboronic acid | 1.09 mmol, 135 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | sodium carbonate | 2.98 mmol, 2M, 1.490 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 0.10 mmol, 82 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1-(2-(Difluoromethyl)-6-methylpyridin-4-yl)-4-fluoro-1-(2-(pyrimidin-5-yl)pyridin-4-yl)-1H-isoindol-3-amine | 60 mg, 14% | FC(C1=NC(=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C=1C=NC=NC1)C)F | C24H17F3N6
